US06455528B1
A solution of N-(1-(4-formylphenyl)ethyl)acetamide (0.32 g) and sodium borohydride (63 mg) in ethanol (10 ml) was stirred at room temperature for 1 hr. Thereto was added 2N hydrochloric acid (1 ml) to stop the reaction, and the reaction mixture was poured into ice water (100 ml) and extracted with ethyl acetate. The extract was washed successively with saturated sodium hydrogencarbonate solution (500 ml) and saturated brine (500 ml) and dried over anhydrous sodium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (elution solvent; hexane:ethyl acetate=2:5, later 1:4) to give N-(1-(4-hydroxymethylphenyl)ethyl)acetamide (100 mg) as a colorless oil. A solution of the obtained N-(1-(4-hydroxymethylphenyl)ethyl)acetamide (100 mg) and thionyl chloride (0.050 ml) in chloroform (5 ml) was stirred at 60° C. for 1 hr. This was diluted with ethyl acetate (100 ml) and poured into a saturated sodium hydrogencarbonate solution (100 ml) to separate the organic layer. The aqueous layer was extracted with ethyl acetate (100 ml) and combined with the organic layer obtained earlier. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (elution solvent; ethyl acetate alone) to give N-(1-(4-chloromethylphenyl)ethyl)acetamide (92 mg) as yellow crystals.

reactant | N-(1-(4-formylphenyl)ethyl)acetamide | 0.32 g | C(=O)C1=CC=C(C=C1)C(C)NC(C)=O | C11H13NO2
reactant | sodium borohydride | 63 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 2N, 1 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-(1-(4-hydroxymethylphenyl)ethyl)acetamide | 100 mg | OCC1=CC=C(C=C1)C(C)NC(C)=O | C11H15NO2
